US07268164B2
N-Acetyl-β-(4-trifluoromethylphenyl)-β-alanine Methyl Ester
Methyl 3-acetamido-6-(trifluoromethyl)benzo[b]thiophene-2-carboxylate (0.7014 g, 2.21 mmol) was reductively desulfurized using Raney nickel to yield the title compound as a clear oil (0.5961 g, 2.05 mmol, 92.6%); TLC: Rf=0.52 (Solvent I), 0.86 (Solvent L); IR (cm−1): 3340 (NH), 1736 (ester C═O), 1654 (amide C═O); 1H nmr (DMSO-d6): δ 8.45 (d, 1H, J=8.0 Hz), 7.59 (d, 2H, J=8.3 Hz), 7.49 (d, 2H, J=8. J z), 5.25 (q, 1H, J=7.6, 15 Hz), 3.55 (s, 3H), 2.75 (m, 2H), 1.82 (s, 3H).

reactant | Methyl 3-acetamido-6-(trifluoromethyl)benzo[b]thiophene-2-carboxylate | 2.21 mmol, 0.7014 g | C(C)(=O)NC=1C2=C(SC1C(=O)OC)C=C(C=C2)C(F)(F)F | C13H10F3NO3S
catalyst | Raney nickel | [Ni] | Ni
product | N-Acetyl-β-(4-trifluoromethylphenyl)-β-alanine Methyl Ester | 2.05 mmol, 0.5961 g, 92.6% | COC(CC(NC(C)=O)C1=CC=C(C=C1)C(F)(F)F)=O | C13H14F3NO3
